US05120759
28.5 g (0.113 mol) of [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethanol were dissolved in 150 ml of pyridine and treated portionwise within 30 minutes at 0° with 31.5 g (0.165 mol) of p-toluenesulphonyl chloride. After 90 minutes the reaction solution was poured into ice-water and extracted with ether. The organic phase was washed in succession with 3N hydrochloric acid, water and a saturated sodium carbonate solution. After drying over magnesium sulphate and evaporation of the solvent under reduced pressure, the remaining oily residue was recrystallized from ether/hexane, yielding 38.8 g (85%) of [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethyl p-toluenesulphonate as white crystals, m.p. 65°-67°; [α]D20 =-54.1° (c=1, methanol).

reactant | [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethanol | 0.113 mol, 28.5 g | FC=1C=C2CC[C@@]([C@@H](C2=CC1)C(C)C)(O)CCO | C15H21FO2
reactant | p-toluenesulphonyl chloride | 0.165 mol, 31.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethyl p-toluenesulphonate | 38.8 g, 85% | C1(=CC=C(C=C1)S(=O)(=O)OCC[C@]1([C@@H](C2=CC=C(C=C2CC1)F)C(C)C)O)C | C22H27FO4S
